US08003796B2
4-(Piperidin-4-yloxy)pyridin-2(1H)-one was prepared according to procedures described in Example 106 Step A substituting tert-butyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate. MS (EST) 195 (M+H),

reactant | tert-butyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | O=C1NC=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O4
reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
product | 4-(Piperidin-4-yloxy)pyridin-2(1H)-one | N1CCC(CC1)OC1=CC(NC=C1)=O | C10H14N2O2
